US07465806B2
To a solution of 4-nitro-1H-pyrrole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide trifluoroacetate salt (30 mg) in DMF (4 mL) was added Cs2CO3 (70 mg). The mixture was stirred for 30 min at RT after which 2-bromo-N-(5-chloro-pyridin-2-yl)-acetamide (27 mg) was added. Stirring was continued for 20 h at RT. The mixture was filtered and directly subjected to preparative HPLC(CH3CN/H2O gradient+0.05% TFA) to give 1-[(5-chloro-pyridin-2-ylcarbamoyl)-methyl]-4-nitro-1H-pyrrole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide (15 mg) as its trifluoroacetate salt. MS (ESI+): m/e=449 [M+H]+, chloro pattern.

reactant | 4-nitro-1H-pyrrole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide trifluoroacetate salt | 30 mg | FC(C(=O)O)(F)F.C(C)(C)N1CCC(CC1)NC(=O)C=1NC=C(C1)[N+](=O)[O-]
reactant | Cs2CO3 | 70 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromo-N-(5-chloro-pyridin-2-yl)-acetamide | 27 mg | BrCC(=O)NC1=NC=C(C=C1)Cl | C7H6BrClN2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-[(5-chloro-pyridin-2-ylcarbamoyl)-methyl]-4-nitro-1H-pyrrole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | 15 mg | C(C)(C)N1CCC(CC1)NC(=O)C=1N(C=C(C1)[N+](=O)[O-])CC(NC1=NC=C(C=C1)Cl)=O | C20H25ClN6O4
